US05322848
1-(3-hydroxypyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl -1,2,3,4-tetrahydroisoquinoline hydrochloride--diastereoisomeric mixture
Prepared as Example n° 1 from 5.0 g (21.5 mmoles) of 1-(3-hydroxypyrrolidin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline--diast. mix.--, 5.2 g (23.6 mmoles) of 3,4-dichlorophenylacetyl chloride and 3.6 g (23.6 mmoles) of anhydrous potassium carbonate.

reactant | 1-(3-hydroxypyrrolidin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline | 21.5 mmoles, 5.0 g | OC1CN(CC1)CC1NCCC2=CC=CC=C12 | C14H20N2O
reactant | 3,4-dichlorophenylacetyl chloride | 23.6 mmoles | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | potassium carbonate | 23.6 mmoles, 3.6 g | C([O-])([O-])=O.[K+].[K+]
product | 1-(3-hydroxypyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl -1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.OC1CN(CC1)CC1(NCCC2=CC=CC=C12)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C22H24Cl2N2O2.ClH/c23-19-6-5-15(11-20(19)24)12-21(28)22(14-26-10-8-17(27)13-26)18-4-2-1-3-16(18)7-9-25-22;/h1-6,11,17,25,27H,7-10,12-14H2;1H
